US08039639B2
Step E: Preparation of Methyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate 79:
A solution of methyl 2-(5-(2-(aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate dihydrochloride (17.5 g, 43.51 mmol) in dimethylacetamide (0.5M, 88 mL) was treated with 2,2,2-trichloroethyl-3-tert-butyl-1-p-tolyl-1H-pyrazol-5-ylcarbamate (17.96 g, 44.38 mmol), followed by diisopropylethylamine (30.3 mL, 174 mmol) at room temperature. The mixture was heated at 80° C. overnight. The mixture was concentrated in vacuo and the residue distributed between EtOAc and saturated aqueous NH4Cl. The organic layer was separated and washed with brine, filtered through 1PS paper, evaporated in vacuo to a brown foam. The foam was triturated in ether, and the precipitated solids were collected by filtration to provide 22.55 g (89%) of the desired compound. MS (APCI+) m/z 585 (M+1) detected. 1H NMR (400 MHz, DMSO-d6) δ 8.3 (s, 1H), 8.07 (s, 1H), 7.68 (d, 1H, J=8.9 Hz), 6.85-7.37 (m, 8H), 6.24 (s, 1H), 5.4 (s, 2H), 4.28 (d, 2H, J=5.8 Hz), 3.68 (s, 3H), 2.35 (s, 3H), 1.25 (s, 9H).

reactant | methyl 2-(5-(2-(aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate dihydrochloride | 43.51 mmol, 17.5 g | Cl.Cl.NCC1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)OC)C=CC(=C1)F
reactant | 2,2,2-trichloroethyl-3-tert-butyl-1-p-tolyl-1H-pyrazol-5-ylcarbamate | 44.38 mmol, 17.96 g | ClC(COC(NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C)=O)(Cl)Cl | C17H20Cl3N3O2
reactant | diisopropylethylamine | 174 mmol, 30.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylacetamide | 0.5M, 88 mL | CC(=O)N(C)C | C4H9NO
product | Methyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate | 22.55 g, 89% | C(C)(C)(C)C1=NN(C(=C1)NC(NCC1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)OC)C=CC(=C1)F)=O)C1=CC=C(C=C1)C | C32H33FN6O4
